US05358939
1-[2-(4-chlorophenyl)-2-(methoxymethyl)hexyl]-1,2,4-triazole
To a 100 mL 3 neck flask stirring under nitrogen was charged 0.40 g (0.010 mole) of 60% sodium hydride, prewashed with hexanes, in 30 mL of dimethylformamide. The slurry was cooled to 10° C. and 2.12 g (0.00723 mole) of 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexan-1-ol in 15 mL of dimethylformamide was added over 15 minutes. The reaction was warmed to room temperature and 1.17 g (0.00812 mole) of methyl iodide was added directly and the reaction was stirred overnight at room temperature. The reaction was quenched with 10 mL water and 100 mL ether. The organic phase was washed with 2×25 mL water, dried, concentrated and gave 1.53 g (69% yield) of product as an oil.

reactant | sodium hydride | 0.010 mole, 0.40 g | [H-].[Na+]
reactant | 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexan-1-ol | 0.00723 mole, 2.12 g | ClC1=CC=C(C=C1)C(CO)(CCCC)CN1N=CN=C1 | C15H20ClN3O
reactant | methyl iodide | 0.00812 mole, 1.17 g | CI | CH3I
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 1-[2-(4-chlorophenyl)-2-(methoxymethyl)hexyl]-1,2,4-triazole | 1.53 g, 69% yield | ClC1=CC=C(C=C1)C(CN1N=CN=C1)(CCCC)COC | C16H22ClN3O
